US06627651B1
To 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carbaldehyde (2.0 g) and 4-trifluoroacetamidopiperidine (1.56 g) dissolved in 1,2-dichloroethane (50 ml) was added under ice cooling sodium triacetoxyborohydride (1.8 g), and the resulting mixture was stirred at room temperature overnight under a nitrogen atmosphere. Thereto were added triethylamine (1.1 ml) and sodium triacetoxyborohydride (0.8 g), and the resulting mixture was stirred at room temperature overnight under a nitrogen atmosphere. The reaction mixture was evaporated to remove the solvent, was neutralized with a 1 N aqueous solution of sodium hydrogen carbonate and was extracted with ethyl acetate. The organic layer was washed with water and an aqueous saturated solution of sodium chloride, and then was dried with anhydrous magnesium sulfate. The resulting organic layer was evaporated under reduced pressure to remove the solvent to obtain crude crystals (3.0 g). A portion of the crystals was recrystallized from ethyl acetate/hexane to obtain 1-(7-(4-methylphenyl)-2,3-dihydro-1-benzooxepin-4-ylmethy)-4-trifluoroacetamidopiperidine as light yellow crystals.

reactant | 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carbaldehyde | 2.0 g | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C=O)C1 | C18H16O2
reactant | 4-trifluoroacetamidopiperidine | 1.56 g | FC(C(=O)NC1CCNCC1)(F)F | C7H11F3N2O
reactant | sodium triacetoxyborohydride | 1.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 1-(7-(4-methylphenyl)-2,3-dihydro-1-benzooxepin-4-ylmethy)-4-trifluoroacetamidopiperidine | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)CN2CCC(CC2)NC(C(F)(F)F)=O)C1 | C25H27F3N2O2
